US07842685B2
Synthesis of 3-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)cyclopropylamino)propanoic acid
A solution of methyl 3-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)cyclopropylamino)propanoate (0.031 g, 0.064 mmol) in tetrahydrofuran (0.2 mL) and methanol (0.1 mL) was added 1 M lithium hydroxide solution (0.19 mL, 0.19 mmol) and stirred at room temperature for 3 hours. The reaction mixture was concentrated in vacuo and the resulting slurry was diluted with water and neutralized (to pH=˜7) with aqueous 1 N HCl solution. The aqueous suspension was extracted with 15% MeOH/CHCl3; the organic extracts were combined, dried (K2CO3), filtered, and concentrated in vacuo. Purification via reverse phase prep. HPLC afforded the title compound as an off-white amorphous solid. MS (ESI) m/z: Calculated: 473.2; Observed: 474.1 (M++1).

reactant | methyl 3-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)cyclopropylamino)propanoate | 0.064 mmol, 0.031 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)NCCC(=O)OC | C28H26FN3O2S
reactant | lithium hydroxide | 0.19 mmol, 1 M, 0.19 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.1 mL | CO | CH4O
product | 3-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)cyclopropylamino)propanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)NCCC(=O)O | C27H24FN3O2S
